US05686445
4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]benzoic acid
A mixture of 0.975 g of 6,11-dihydro-5H-dibenz[b,e]azepine and 0.20 g of NaH (60% in oil) in 20 ml of tetrahydrofuran is stirred at room temperature for 0.5 hr. Then 1.1 g of mono-methyl terephthalyl chloride (prepared from mono-methyl terephthalate and thionyl chloride) is added and the mixture refluxed 18 hours. The mixture is cooled, poured into ice water and filtered. The solid is triturated with dichloromethane-hexane to give 1.0 g of crystals, m.p. 182°-185° C. The preceding compound, methyl 4-[(6,11-dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]benzoate (2.11 g), 20 ml of 2N NaOH and 20 ml of methanol is stirred overnight and then heated on a steam bath for 1 hr. The solvent is removed to give a solid. The solid is extracted with ether (discarded). The solid is dissolved in water and the solution acidified with citric acid to give a solid. The solid is filtered and washed with water to give 1.84 g of crystals, m.p. 220°-225° C.

reactant | methyl 4-[(6,11-dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]benzoate | 2.11 g | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=CC=C(C(=O)OC)C=C3 | C23H19NO3
reactant | NaOH | 2N, 20 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]benzoic acid | 1.84 g | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=CC=C(C(=O)O)C=C3 | C22H17NO3
